US06982348B2
7) (4RS,5SR)-5-[4-(pyridin-2-yloxy)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one
To a solution of (2RS,3RS)-3-hydroxy-3-[4-(pyridin-2-yloxy)phenyl]-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid (4.49 g, 9.65 mmol, crude) in tetrahydrofuran (60 ml) were added diphenylphosphoryl azide (2.29 ml, 10.6 mmol) and triethylamine (2.02 mmol, 14.5 mmol), and the mixture was heated under reflux for 2 hrs. The reaction solution was allowed to cool and water (100 ml) was added. The mixture was extracted with ethyl acetate (100 ml×2). The extract was washed successively with aqueous sodium hydrogen carbonate solution and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1-1:1). Recrystallization from ethyl acetate-hexane gave the objective substance (3.56 g, 80%).

reactant | (2RS,3RS)-3-hydroxy-3-[4-(pyridin-2-yloxy)phenyl]-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid | 9.65 mmol, 4.49 g | OC(C(C(=O)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C1=CC=C(C=C1)OC1=NC=CC=C1 | C23H19F4NO5
reactant | diphenylphosphoryl azide | 10.6 mmol, 2.29 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 2.02 mmol | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | (4RS,5SR)-5-[4-(pyridin-2-yloxy)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one | N1=C(C=CC=C1)OC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C23H18F4N2O4
